US04788190
(a) 2-(4-CHLOROPHENYL)-2-METHYLOXIRANE
To a stirred and cooled solution (0°-5° C.) of 4-chloro-α-methylstyrene (15.2g) in chloroform (350 mL), add m-chloroperbenzoic acid (21.6 g). Stir the reaction mixture for 1 hr by which time all starting material will haye reacted to give virtually a single product. Remove the m-chlorobenzoic acid formed by washing chloroform solution with aqueous NaHCO3 followed by water (150 mL). Dry the chloroform solution (Na2SO4) and evaporate to dryness to provide a colorless oil. Distill the oil in vacuo (1 mm) and collect fractions distilling between 65°-72° to give the title compound (8.8 g).

reactant | 4-chloro-α-methylstyrene | 15.2g | ClC1=CC=C(C(=C)C)C=C1 | C9H9Cl
reactant | m-chloroperbenzoic acid | 21.6 g | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
solvent | chloroform | 350 mL | C(Cl)(Cl)Cl | CHCl3
product | 2-(4-CHLOROPHENYL)-2-METHYLOXIRANE | 8.8 g | ClC1=CC=C(C=C1)C1(OC1)C | C9H9ClO
